### PR TITLE
feat: tag `Function.leftLim` with `to_dual`

### PR DESCRIPTION
**Pull request by EtienneC30**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
Thanks for giving this a go

File: Mathlib/Topology/Order/LeftRightLim.lean
Comment (JovanGerb) [inline Mathlib/Topology/Order/LeftRightLim.lean:264]: Note: for these to be translated by `to_dual`, they would need to be tagged `to_dual self`. However, they aren't used anywhere where this would be useful, so it's fine to not tag them

File: Mathlib/Topology/Order/Monotone.lean [hunk 1]
```diff
@@ -482,24 +483,13 @@ lemma MonotoneOn.tendsto_nhdsLT {α β : Type*} [LinearOrder α] [TopologicalSpa
...
-  MonotoneOn.tendsto_nhdsLT (α := αᵒᵈ) (β := βᵒᵈ) Mf.dual h_bdd
-
 /-- A monotone map has a limit to the left of any point `x`, equal to `sSup (f '' (Iio x))`. -/
+@[to_dual]
 theorem Monotone.tendsto_nhdsLT {α β : Type*} [LinearOrder α] [TopologicalSpace α] [OrderTopology α]
     [ConditionallyCompleteLinearOrder β] [TopologicalSpace β] [OrderTopology β] {f : α → β}
     (Mf : Monotone f) (x : α) : Tendsto f (𝓝[<] x) (𝓝 (sSup (f '' Iio x))) :=
   MonotoneOn.tendsto_nhdsLT (Mf.monotoneOn _) (Mf.map_bddAbove bddAbove_Iio)
 
-/-- A monotone map has a limit to the right of any point `x`, equal to `sInf (f '' (Ioi x))`. -/
```
Comment (JovanGerb) [inline Mathlib/Topology/Order/Monotone.lean:497]: Could you keep the docstring?

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 2]
```diff
@@ -28,47 +28,38 @@ variable [TopologicalSpace α] [LinearOrder α] [OrderTopology α] [DenselyOrder
...
-
+@[to_dual]
 theorem IsMax.of_disjoint_nhds_Ioi {x : α} {u : Set α} (hu : u ∈ nhds x)
     (hd : Disjoint u (Set.Ioi x)) : IsMax x := by
   by_contra hx
   exact (mem_closure_iff_nhds.mp (closure_Ioi' (not_isMax_iff.mp hx) ▸ self_mem_Ici) u hu).ne_empty
     (disjoint_iff.mp hd)
 
+@[to_dual]
 theorem IsMin.of_disjoint_nhds_Iio {x : α} {u : Set α} (hu : u ∈ nhds x)
```
Comment (JovanGerb) [inline Mathlib/Topology/Order/DenselyOrdered.lean]: I think these are actually already dual to eachother, but the `to_dual` name generator didn't catch this because it falsely translated `disjoint` in the name to `codisjoint`.

File: Mathlib/Topology/Order/LeftRightLim.lean
Comment (JovanGerb) [inline Mathlib/Topology/Order/LeftRightLim.lean:131]:
```suggestion
    rw [← Iio_union_right, nhdsWithin_union]
```
This way we can avoid needing to tag `Iio_union_Icc_eq_Iic` with `to_dual`

Comment (EtienneC30) [reply Mathlib/Topology/Order/LeftRightLim.lean:131]: Why don't we want to tag this lemma with `to_dual`?

**Comment by EtienneC30** [comment]
I wasn't able to tag `closure_Ioo` with `to_dual`, I think because of the `a ≠ b` argument. One way to resolve this would be to tag `Ne` with `to_dual self` but probably this is unnecessary.

Do you want me to split changes to each file so as to ease the review?

File: Mathlib/Topology/Order/LeftRightLim.lean
Comment (JovanGerb) [reply Mathlib/Topology/Order/LeftRightLim.lean]: There is no particular reason not to tag it with `to_dual`, but then we should probably do so consistently with all the similar lemmas, which would be a separate PR.

**Comment by JovanGerb** [comment]
Yeah, we don't want to tag `Ne` (or `Eq`) with `to_dual`. For lemmas where that is an issue, we can either use `to_dual none`, or do nothing at all.
